US04333942
(b) 4-(4-Nitrophenoxy)-4-phenylpiperidine
(oil), from 1-methyl-4-(4-nitrophenoxy)-4-phenylpiperidine, intermediate 1-ethoxycarbonyl-4-(4-nitrophenoxy)-4-phenylpiperidine of m.p. 137° to 138° C.

reactant | 1-methyl-4-(4-nitrophenoxy)-4-phenylpiperidine | CN1CCC(CC1)(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O3
reactant | 1-ethoxycarbonyl-4-(4-nitrophenoxy)-4-phenylpiperidine | C(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O5
product | 4-(4-Nitrophenoxy)-4-phenylpiperidine | [N+](=O)([O-])C1=CC=C(OC2(CCNCC2)C2=CC=CC=C2)C=C1 | C17H18N2O3
